US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-methylethane-1,2-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and N-methylethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 411, 1H NMR (400 MHz, CD3OD) δ ppm 8.03-8.0 (m, 3 H), 7.87-7.84 (d, J=8.8 Hz, 1 H), 7.71-7.70 (d, J=1.2 Hz, 1 H), 7.57-7.53 (m, 2 H), 6.07 (s, 1 H), 5.40 (s, 2 H), 4.56 (s, 2 H), 3.96-3.93 (dd, J=6.0, 6.4 Hz, 2 H), 3.75-3.73 (q, J=4.4 Hz, 2 H), 3.43-3.40 (q, J=6 Hz, 2 H), 2.80 (s, 3 H), 2.46 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | N-methylethane-1,2-diamine | CNCCN | C3H10N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-methylethane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCNC)C)=O | C22H26N4O2S
